US08470841B2
2a. N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide
4-(3-Aminobutyl)phenol (510 mg, 3.087 mmol) and triethylamine (1.3 ml, 9.26 mmol) were dissolved in 30 ml of ethyl acetate. At 0° C., acetic anhydride (029 ml, 3.087 mmol) was added. The cooling bath was removed after 1 h. The reaction mixture was concentrated, and the residue was purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 472 mg (74%) of N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide, M+H+: 208.14 and 54 mg (7%) of 4-(3-acetylaminobutyl)phenyl acetate, M+H+: 250.13.

reactant | 4-(3-Aminobutyl)phenol | 3.087 mmol, 510 mg | NC(CCC1=CC=C(C=C1)O)C | C10H15NO
reactant | triethylamine | 9.26 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 3.087 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
